US04002608
3. 4-Acetamidobutyraldehyde
Dissolve 5 gms. of 4-acetamidobutyraldehyde diethyl acetal in 75 ml. of distilled water and 5 ml. of 1 N sulfuric acid. Allow the solution to stand at room temperature until the hydrolysis is complete as determined by thin layer chromatography. Neutralize the solution with sodium bicarbonate, then saturate the solution with sodium chloride and extract with chloroform. Distill the combined chloroform extracts to a residue comprising 4-acetamidobutyraldehyde, which can be used without further purification in the following procedure.

reactant | 4-acetamidobutyraldehyde diethyl acetal | C(C)OC(CCCNC(C)=O)OCC | C10H21NO3
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-Acetamidobutyraldehyde | C(C)(=O)NCCCC=O | C6H11NO2
